US09382265B2
(d) (3S,3 aS)-3-((1,3-dioxoisoindolin-2-yl)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile
Using compound ((3R,3aS)-7-cyano-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methylmethanesulfonate (0.31 g, 0.957 mmol) and phthalimide potassium (0.266 g, 1.435 mmol) as starting materials, preparation following the method as described in Example 1(d) afforded white solid 0.286 g, yield: 79.71%.

reactant | ((3R,3aS)-7-cyano-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methylmethanesulfonate | 0.957 mmol, 0.31 g | C(#N)C=1C=CC2=C(OC[C@@H]3N2C(O[C@@H]3CCS(=O)(=O)[O-])=O)C1
reactant | phthalimide potassium | 1.435 mmol, 0.266 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
product | (3S,3 aS)-3-((1,3-dioxoisoindolin-2-yl)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-carbonitrile | 0.286 g, yield: 79.71% | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C#N)=O | C20H13N3O5
